US08535974B2
Synthesis of 9-(4-(bicyclo[4.2.0]octa-1(6),2,4-trien-3-yl)butyl)-9-(4-(bicyclo[4.2.0]octa-1,3,5-trien-3-yl)butyl)-N2,N7-diphenyl-N2,N7-di-m-tolyl-9H-fluorene-2,7-diamine
To an oven-dried three-neck round-bottom flask under nitrogen, were added 600 mL anhydrous toluene, 14.3 g 9-(4-(bicyclo[4.2.0]octa-1(6),2,4-trien-3-yl)butyl)-9-(4-(bicyclo[4.2.0]octa-1,3,5-trien-3-yl)butyl)-2,7-dibromo-9H-fluorene, and 9.2 mL 3-methyldiphenylamine. After the reaction mixture was degassed with strong nitrogen flow for 30 minutes, 6.44 g sodium tert-butoxide, 0.82 g tris(dibenzylideneacetone)dipalladium(0) (Pd2dba3), and 0.54 g tri-tert-butyl phosphine in 15 mL toluene were added. The reaction mixture was heated to reflux. After three hours, the heating was turn off, and the reaction was allowed to cool down to room temperature. The reaction mixture was filter through a Celite/silica gel plug. The product (13.1 g) was purified by flash chromatography using hexane, 1% then 5% ethyl acetate in hexane solution. The structure was confirmed by NMR.

reactant | 9-(4-(bicyclo[4.2.0]octa-1(6),2,4-trien-3-yl)butyl)-9-(4-(bicyclo[4.2.0]octa-1,3,5-trien-3-yl)butyl)-2,7-dibromo-9H-fluorene | 14.3 g | C1=2C=C(C=CC2CC1)CCCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)CCCCC=1C=C2CCC2=CC1 | C37H36Br2
reactant | 3-methyldiphenylamine | 9.2 mL | CC1=CC(=CC=C1)NC2=CC=CC=C2 | C13H13N
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 9-(4-(bicyclo[4.2.0]octa-1(6),2,4-trien-3-yl)butyl)-9-(4-(bicyclo[4.2.0]octa-1,3,5-trien-3-yl)butyl)-N2,N7-diphenyl-N2,N7-di-m-tolyl-9H-fluorene-2,7-diamine | C1=2C=C(C=CC2CC1)CCCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)N(C=1C=C(C=CC1)C)C1=CC=CC=C1)N(C=1C=C(C=CC1)C)C1=CC=CC=C1)CCCCC=1C=C2CCC2=CC1 | C63H60N2
